US07772261B2
0.20 g (0.50 mmol) of tert-butyl 3-amino-5-(1-methyl-1-phenylethylcarbamoyl)-1H-pyrazolo[4,3-d]thiazole-1-carboxylate dissolved in 5 ml of pyridine is placed in a 50 ml round-bottomed flask under argon. A solution of 0.07 g (0.50 mmol) of thiophene-3-carbonyl chloride (prepared according to FR 2 411 188) in 2.0 ml of tetrahydrofuran is then added dropwise and the mixture is stirred for 15 hours at 25° C. The reaction medium is then concentrated to dryness under reduced pressure (40° C.) and the residue is taken up in 30 ml of dichloromethane and 30 ml of water, and basified with 0.1N sodium hydroxide solution. The emulsion obtained is resorbed by saturation with sodium chloride. After separation of the phases by settling, the organic phase is dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue is purified by flash chromatography (msilica=30 g; eluent: 95/5 dichloromethane/methanol). 0.074 g of tert-butyl 5-(1-methyl-1-phenylethylcarbamoyl)-3-[(thiophene-3-carbonyl)amino]-1H-pyrazolo[4,3-d]thiazole-1-carboxylate is thus obtained in the form of a cream-coloured foam. 0.14 g of an impure batch is also obtained, and is repurified by flash chromatography (msilica=30 g; eluent: 95/5 dichloromethane/methanol). 0.013 g of tert-butyl 5-(1-methyl-1-phenylethylcarbamoyl)-3-[(thiophene-3-carbonyl)amino]-1H-pyrazolo[4,3-d]thiazole-1-carboxylate is thus obtained in the form of a cream-coloured foam, along with 0.11 g of an impure batch, which is repurified by flash chromatography (msilica=30 g; eluent: 95/5 dichloromethane/methanol). 0.04 g of tert-butyl 5-(1-methyl-1-phenylethylcarbamoyl)-3-[(thiophene-3-carbonyl)amino]-1H-pyrazolo[4,3-d]thiazole-1-carboxylate is thus obtained in the form of a cream-coloured foam. 1H NMR (400 MHz, DMSO-d6): δ ppm 1.62 (s, 9H); 1.71 (s, 6H); 7.20 (t, J=7.5 Hz, 1H); 7.30 (t, J=7.5 Hz, 2H); 7.41 (d, J=7.5 Hz, 2H); 7.70 (d, J=2.0 Hz, 2H); 8.50 (t, J=2.0 Hz, 1H); 8.70 (s, 1H); 11.25 (s, 1H). LC-MS-DAD-ELSD: 510(−)=(M−H)(−); 512(+)=(M+H)(+).

reactant | tert-butyl 3-amino-5-(1-methyl-1-phenylethylcarbamoyl)-1H-pyrazolo[4,3-d]thiazole-1-carboxylate | 0.50 mmol, 0.20 g | NC1=NN(C2=C1N=C(S2)C(NC(C)(C2=CC=CC=C2)C)=O)C(=O)OC(C)(C)C | C19H23N5O3S
reactant | thiophene-3-carbonyl chloride | 0.50 mmol, 0.07 g | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | sodium chloride | [Cl-].[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | tert-butyl 5-(1-methyl-1-phenylethylcarbamoyl)-3-[(thiophene-3-carbonyl)amino]-1H-pyrazolo[4,3-d]thiazole-1-carboxylate | 0.074 g | CC(C)(C1=CC=CC=C1)NC(=O)C=1SC2=C(N1)C(=NN2C(=O)OC(C)(C)C)NC(=O)C2=CSC=C2 | C24H25N5O4S2
